US04923993
Preparation of 3-cyano-5,6,7,8-tetrahydroisoquinoline
7.6 g cyclohex-1-ene-carboxaldehyde-N,N-dimethylhydrazone, 4.4 g of 2-chloroacrylonitrile and 10.1 g of triethylamine are heated in 75 ml of dioxane for 18 hours to 90° C. The reaction mixture is concentrated by evaporation and the residue is acidified with 1N HCl and extracted three times with chloroform. The combined extracts are dried and concentrated by evaporation and the residue is chromatographed over silica gel. Pale yellow crystals of the title compound are isolated. Melting point: 56°-59° C.

reactant | cyclohex-1-ene-carboxaldehyde-N,N-dimethylhydrazone | 7.6 g | CN(N=CC1=CCCCC1)C | C9H16N2
reactant | 2-chloroacrylonitrile | 4.4 g | ClC(C#N)=C | C3H2ClN
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
product | 3-cyano-5,6,7,8-tetrahydroisoquinoline | C(#N)C=1N=CC=2CCCCC2C1 | C10H10N2
